US04364875
2-Chloro-3-phenoxy-6-nitro-N-(3-trifluoromethyl-benzyl)-aniline
A mixture of 3.41 gm of 2-chloro-4-nitro-1,3-diphenoxy-benzene, 5 ml of dioxane and 4 gm of 3-trifluoromethyl-benzylamine was stirred for 12 hours at 100° C. Thereafter, the reaction mixture was evaporated, the residue was taken up in chloroform, the resulting solution was extracted first with 2 N sodium hydroxide and then with 2 N hydrochloric acid, and the organic phase was dried with sodium sulfate. The chloroform was distilled off, leaving 4.0 gm (95% of theory) of the title compound as a viscous yellow oil.

reactant | 2-chloro-4-nitro-1,3-diphenoxy-benzene | 3.41 gm | ClC1=C(C=CC(=C1OC1=CC=CC=C1)[N+](=O)[O-])OC1=CC=CC=C1 | C18H12ClNO4
reactant | 3-trifluoromethyl-benzylamine | 4 gm | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 2-Chloro-3-phenoxy-6-nitro-N-(3-trifluoromethyl-benzyl)-aniline | ClC1=C(NCC2=CC(=CC=C2)C(F)(F)F)C(=CC=C1OC1=CC=CC=C1)[N+](=O)[O-] | C20H14ClF3N2O3
